US08604055B2
Step (iii): Synthesis of 2-chloro-8-trifluoromethyl-quinoline
8-Trifluoromethyl-1H-quinolin-2-one (8.35 g, 39.2 mmol) was taken in a 25 mL RB POCl3 (10 mL) was added, and then refluxed for 1 h. The excess POCl3 was distilled off and ice was added to the reaction mixture. This was stirred for 15 min, the precipitate was filtered off and then dried under vacuum to afford the title compound (3 g, yield: 33%).

reactant | 8-Trifluoromethyl-1H-quinolin-2-one | 39.2 mmol, 8.35 g | FC(C=1C=CC=C2C=CC(NC12)=O)(F)F | C10H6F3NO
reactant | POCl3 | 10 mL | O=P(Cl)(Cl)Cl | Cl3OP
product | 2-chloro-8-trifluoromethyl-quinoline | 3 g, yield: 33% | ClC1=NC2=C(C=CC=C2C=C1)C(F)(F)F | C10H5ClF3N
